US05885986
125 ml of a crude THF solution of 8-fluoro-3-(5-iodo-methyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one (prepared from 15.6 g (0.050 mol) of 8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepine-3-carboxylic acid prop-2-ynylamide and 16.9 g (0.075 mol) of N-iodosuccinimide in 300 ml of acetic acid, subsequently completely freed from the solvents, dried azeotropically several times with toluene and dissolved in 500 ml of THF) were treated with 15.4 ml (0.109 mol) of diisopropylamine and stirred at room temperature for 42 hrs. The suspension obtained was completely freed from the solvents, the residue was partitioned between ethyl acetate and 1N aqueous hydrochloric acid and extracted. The aqueous-acidic phase was made basic and extracted with ethyl acetate. The organic phase was concentrated and the brownish product was chromatographed over silica gel with dichloromethane/methanol 39:1 as the eluent. There was obtained 0.83 g (1 6%) of 3-(5-diisopropylaminomethyl-oxazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one as yellowish crystals; m.p. 176°-178°.

reactant | 8-fluoro-3-(5-iodo-methyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | FC=1C=CC2=C(C(N(CC=3N2C=NC3C=3OC(=C(N3)C)I)C)=O)C1 | C16H12FIN4O2
reactant | 8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepine-3-carboxylic acid prop-2-ynylamide | 0.050 mol, 15.6 g | C(C#C)NC(=O)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C16H13FN4O2
reactant | N-iodosuccinimide | 0.075 mol, 16.9 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | diisopropylamine | 0.109 mol, 15.4 ml | C(C)(C)NC(C)C | C6H15N
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
solvent | THF | 125 ml | C1CCOC1 | C4H8O
product | 3-(5-diisopropylaminomethyl-oxazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.83 g, 6% | C(C)(C)N(C(C)C)CC1=CN=C(O1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C22H26FN5O2
